US04952600
(R)-3-Hydroxy-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone
A mixture of 1.6 g of (R)-3-[(4-Nitrobenzoyl)oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone, 1.6 g of potassium carbonate and 60 ml of methanol was stirred for 2 hours, diluted with dichloromethane and filtered. The filtrate was concentrated to dryness. The residue was chromatographed (alumina) to give 0.8 g of the desired product as an off white solid; mp 81°-85° C.

reactant | (R)-3-[(4-Nitrobenzoyl)oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 1.6 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C(N(CC2)CC#CCN2CCCC2)=O)C=C1 | C19H21N3O5
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 60 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-3-Hydroxy-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 0.8 g | O[C@H]1C(N(CC1)CC#CCN1CCCC1)=O | C12H18N2O2
